US07202232B2
A solution of [4-(3, 5-bis-trifluoromethyl-pyrazol-1-yl)-phenyl]-methanol (2 g) and MnO2 (excess) in DCM (30 mL) was stirred at room temperature for 24 hours. Solid materials were removed by filtration and the filtrate was concentrated under reduced pressure. The resulting residue was purified by flash chromatography (SiO2, 4:1 hexane/EtOAc) to give 4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-benzaldehyde (1.5 g, 76% yield) as a colorless syrup.

reactant | [4-(3, 5-bis-trifluoromethyl-pyrazol-1-yl)-phenyl]-methanol | 2 g | FC(C1=NN(C(=C1)C(F)(F)F)C1=CC=C(C=C1)CO)(F)F | C12H8F6N2O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | O=[Mn]=O
product | 4-(3,5-bis-trifluoromethyl-pyrazol-1-yl)-benzaldehyde | 1.5 g, 76% yield | FC(C1=NN(C(=C1)C(F)(F)F)C1=CC=C(C=O)C=C1)(F)F | C12H6F6N2O
